US04094900
To a well stirred mixture of 15.7 g. (0.1 mole) of 2-chlorobenzoic acid and 15.0 g. (0.1 mole) of sodium iodide in 250 ml. of 4-chlorothiophenol was rapidly added a solution of 16 g. (0.4 mole) of sodium hydroxide dissolved in 16 ml. of water. The reaction mixture was heated and concentrated under reduced pressure to an internal temperature of about 145° C. to remove the water and some excess 4-chlorothiophenol. The residue was then stirred at 170° C. for about 7 hours, cooled and diluted with 250 ml. of water. The solution was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extractions were washed with water, dried with magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from a benzene-hexane mixture to give 2-(4'-chlorothiophenoxy)benzoic acid having a melting point of 239°-240° C.

reactant | 2-chlorobenzoic acid | 0.1 mole | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | sodium iodide | 0.1 mole | [I-].[Na+]
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | 0.4 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(4'-chlorothiophenoxy)benzoic acid | ClC1=CC=C(SC2=C(C(=O)O)C=CC=C2)C=C1 | C13H9ClO2S
